US08957203B2
A solution of tert-butyl (2R,6S,7R,13aS,14aR,16aS,Z)-14a-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-ylcarbamate (130 mg, 0.14 mmole) was added to a solution of HCl in dioxane (4N, 5 mL) and the solution was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure to get crude compound. The crude compound was washed with diethyl ether to afford (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride (100 mg, 90%) as off-white solid. MS: MS m/z 821.3 (M++1).

reactant | tert-butyl (2R,6S,7R,13aS,14aR,16aS,Z)-14a-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-ylcarbamate | 0.14 mmole, 130 mg | FCC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](CC(CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)OC3=CC(=NC2=CC(=CC=C32)OC)C3=CC=C(C=C3)OC(C)C)=O | C48H62FN5O10S
reactant | HCl | Cl | ClH
solvent | dioxane | 4N, 5 mL | O1CCOCC1 | C4H8O2
product | (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride | 100 mg, 90% | Cl.N[C@H]1[C@@H](C[C@@H](CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=CC(=NC1=CC(=CC=C31)OC)C3=CC=C(C=C3)OC(C)C)=O)(C2)C(=O)NS(=O)(=O)C2(CC2)CF)C)C | InChI=1S/C43H54FN5O8S.ClH/c1-25(2)56-30-12-10-28(11-13-30)34-21-37(33-15-14-31(55-5)19-35(33)46-34)57-32-20-36-39(50)47-43(41(52)48-58(53,54)42(24-44)16-17-42)22-29(43)9-7-6-8-26(3)18-27(4)38(45)40(51)49(36)23-32;/h7,9-15,19,21,25-27,29,32,36,38H,6,8,16-18,20,22-24,45H2,1-5H3,(H,47,50)(H,48,52);1H/b9-7-;/t26-,27-,29-,32-,36+,38+,43-;/m1./s1
